US06794397B2
6-Chloro-N-(2-cyano-4,5-dimethoxyphenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2-amino-4,5-dimethoxybenzonitrile as a white solid as described in Example 1. 1H NMR (CDCl3): 8.97 (d, J=2.7, 1H), 8.18-8.15 (m, 3H), 7.52 (d, J=8.4, 1H), 7.02 (s, 1H), 4.01 (s, 3H), 3.92 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2-amino-4,5-dimethoxybenzonitrile | NC1=C(C#N)C=C(C(=C1)OC)OC | C9H10N2O2
product | 6-Chloro-N-(2-cyano-4,5-dimethoxyphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C(=C1)OC)OC)C#N | C15H12ClN3O3
